US06492402B1
C) 2-(Bromomethyl)thiophene-4-carbonitrile
To a cooled (0° C.) solution of 2-(hydroxymethyl)thiophene-4-carbonitrile (1.14 g, 8.2 mmol) in dichloromethane (50 mL) was added triphenylphosphine (2.8 g, 10.6 mmol) and carbon tetrabromide (3.3 g, 9.9 mmol). After stirring for 3 h at rt, the solvent was removed in vacuo and the residue chromatographed using EtOAc and n-hexane (1:4) to give the title compound (1.6 g, 96%).

reactant | 2-(hydroxymethyl)thiophene-4-carbonitrile | 8.2 mmol, 1.14 g | OCC=1SC=C(C1)C#N | C6H5NOS
reactant | triphenylphosphine | 10.6 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 9.9 mmol, 3.3 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(Bromomethyl)thiophene-4-carbonitrile | 1.6 g, 96% | BrCC=1SC=C(C1)C#N | C6H4BrNS
